2138-02-03 06:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2138-2-2**] 09:45 PM
 URINE CULTURE - At [**2138-2-2**] 10:30 PM
   [**2138-2-2**]:
   - Emailed Dr. [**Last Name (STitle) 3650**] and Dr. [**Last Name (STitle) 3653**]
   - Replaced K in D5 1/2 NS at 75cc/hr
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2138-2-2**] 11:15 PM
   Metronidazole - [**2138-2-3**] 12:20 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2138-2-2**] 11:26 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-2-3**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 112 (108 - 121) bpm
   BP: 109/62(74) {94/49(63) - 128/80(85)} mmHg
   RR: 27 (15 - 29) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                    320 mL
                                                                    576 mL
   PO:
             TF:
   IVF:
                                                                    320 mL
                                                                    576 mL
   Blood products:
   Total out:
                                                                    890 mL
                                                                    370 mL
   Urine:
                                                                    890 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -570 mL
                                                                    206 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   General:  ill appearing woman in NAD, on face mask, able to speak in
   short sentences
   HEENT:  NC, AT, EOMI, PERRLA, MM dry, no lymphadenopathy
   CVS:  RRR, no murmurs
   RESP:  diminished air movement on the left side, egophony at left base,
   no wheezes, crackles or rhonchi
   ABD:  Soft, NT, ND, +BS
   EXT:  No edema
   NEURO:  A+0x3, cn2-12 intact, sensory and motor grossly intact
   Labs / Radiology
   410 K/uL
   9.3 g/dL
   147 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.1 mEq/L
   8 mg/dL
   105 mEq/L
   141 mEq/L
   27.0 %
   12.8 K/uL
        [image002.jpg]
                             [**2138-2-2**]  10:36 PM
                             [**2138-2-3**]  04:37 AM
   WBC
   16.4
   12.8
   Hct
   28.1
   27.0
   Plt
   409
   410
   Cr
   0.5
   0.4
   Glucose
   110
   147
   Other labs: PT / PTT / INR:16.3/29.7/1.5, Differential-Neuts:82.9 %,
   Lymph:9.9 %, Mono:6.2 %, Eos:0.6 %, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.3 mg/dL
   Assessment and Plan
   73F h/o breast cancer, aggressive papillary thyroid cancer, remote
   tobacco abuse, remote LLL lung nodule s/p VATS with pathology
   suggestive of benign fibrous tumor who presents with 1 month
   progressive shortness of breath, worse over the past 3 days, and found
   to have new left hilar mass and post-obstructive pneumonia
   # Left hilar mass: 4.6cm left hilar mass with multiple hypodensities in
   the liver. Concern for metastatic disease (breast, thyroid) vs. new
   lung primary (NSCLC squamous, SCLC, lymphoma) given long tobacco
   history.
   - TSH appropriately suppressed, thyroglobulin pending
   - Consult Onc
   - IP will bronch with likely biopsy today, will likely require
   intubation for procedure
   - Consider perc biopsy liver mass if unable to biopsy lung mass
   - Consider thoracentesis for cytology  if unable to biopsy lung mass
   - SW consult for coping
   .
   # Pneumonia: Appears post-obstructive from mass effect. Community
   dwelling patient. Meets SIRS criteria with WBC 19.6, tachycardia,
   tachypnea, fever.
   - Will change antibiotic regimen to levo and unasyn
   - Chest PT, IS
   - Bronch to obtain sputum culture, will adjust antibiotic coverage
   based on cultures
   - Follow-up blood, urine and sputum cultures
   - Trend WBC count fever curve, trending down.
   .
   # COPD: Evidence emphysema on CT chest although no formal diagnosis. No
   evidence flare presently. Inhalers prn.
   .
   # Breast Cancer:  S/p lumpectomy, chemotherapy and radiation.   No
   active issues
   .
   # Papillary thyroid cancer:  S/p thyroidectomy and RAI ablation.
   - Continue levothyroxine, appropriately suppressed
   .
   # FEN:  NPO except meds until procedure, D51/2NS while NPO will give
   fluid bolus as well this AM, replete lytes PRN
   # Access:  PIVx2
   # PPx:  Heparin sc tid, bowel regimen
   # Code:  Full (confirmed)
   # Dispo:  ICU
   # Comm:  [**Name (NI) **]
 PLEURAL EFFUSION, EMPYEMA
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 HYPOTENSION (NOT SHOCK)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 TACHYCARDIA, OTHER
 ELECTROLYTE & FLUID DISORDER, OTHER
   ICU Care
   Nutrition:
   NPO for now
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-2-2**] 08:52 PM
   18 Gauge - [**2138-2-2**] 08:53 PM
   Prophylaxis:
   DVT:   Heparin SC TID
   Stress ulcer:  none
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition:  ICU

2138-02-04 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 OR SENT - At [**2138-2-3**] 12:14 PM
 BRONCHOSCOPY - At [**2138-2-3**] 12:20 PM
 OR RECEIVED - At [**2138-2-3**] 02:14 PM
 INVASIVE VENTILATION - START [**2138-2-3**] 02:18 PM
   pt intubated in the OR for procedure
 INVASIVE VENTILATION - STOP [**2138-2-3**] 04:34 PM
   pt intubated in the OR for procedure
   [**2138-2-3**]:
   - Went for IP procedure-visualized carcinoma, but unable to specify
   which type
   -Onc recs-waiting for bronch results prior to further staging or
   furthter recs
   - Started on unasyn/levo
   -transiently responded to IVF
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2138-2-2**] 11:15 PM
   Metronidazole - [**2138-2-3**] 09:17 AM
   Ampicillin/Sulbactam (Unasyn) - [**2138-2-4**] 06:32 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2138-2-3**] 04:48 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-2-4**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.4
C (97.6
   HR: 116 (97 - 131) bpm
   BP: 106/66(74) {88/40(56) - 115/78(84)} mmHg
   RR: 24 (20 - 31) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  4,348 mL
                                                                    269 mL
   PO:
                                                                    150 mL
             TF:
   IVF:
                                                                  3,598 mL
                                                                    269 mL
   Blood products:
                                                                    600 mL
   Total out:
                                                                  3,090 mL
                                                                    520 mL
   Urine:
                                                                  3,090 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,258 mL
                                                                   -251 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Set): 501 (501 - 501) mL
   Vt (Spontaneous): 491 (426 - 682) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 32
   PEEP: 0 cmH2O
   FiO2: 70%
   PIP: 11 cmH2O
   SpO2: 94%
   ABG: 7.43/41/81.[**Numeric Identifier 8**]/26/2
   Ve: 14.4 L/min
   PaO2 / FiO2: 117
   Physical Examination
   General:  chronically ill appearing woman in NAD, on face mask, able to
   speak in sentences
   HEENT:  NC, AT, EOMI, PERRLA, MM dry, no lymphadenopathy
   CVS:  RRR, no murmurs
   RESP:  diminished air movement on the left side, egophony at left base,
   no wheezes, crackles or rhonchi
   ABD:  Soft, NT, ND, +BS
   EXT:  No edema
   NEURO:  A+0x3, cn2-12 intact, sensory and motor grossly intact
   Labs / Radiology
   459 K/uL
   8.9 g/dL
   99 mg/dL
   0.5 mg/dL
   26 mEq/L
   2.8 mEq/L
   5 mg/dL
   104 mEq/L
   141 mEq/L
   25.9 %
   11.2 K/uL
        [image002.jpg]
                             [**2138-2-2**]  10:36 PM
                             [**2138-2-3**]  04:37 AM
                             [**2138-2-3**]  04:04 PM
                             [**2138-2-3**]  04:40 PM
                             [**2138-2-4**]  03:22 AM
   WBC
   16.4
   12.8
   11.2
   Hct
   28.1
   27.0
   25.9
   Plt
   [**Telephone/Fax (3) 3685**]
   Cr
   0.5
   0.4
   0.4
   0.5
   TCO2
   28
   Glucose
   110
   147
   100
   99
   Other labs: PT / PTT / INR:16.3/29.7/1.5, Differential-Neuts:82.9 %,
   Lymph:9.9 %, Mono:6.2 %, Eos:0.6 %, Ca++:8.1 mg/dL, Mg++:1.6 mg/dL,
   PO4:3.0 mg/dL
   Assessment and Plan
   73F h/o breast cancer, aggressive papillary thyroid cancer, remote
   tobacco abuse, remote LLL lung nodule s/p VATS with pathology
   suggestive of benign fibrous tumor who presents with 1 month
   progressive shortness of breath, worse over the past 3 days, and found
   to have new left hilar mass and post-obstructive pneumonia
   # Left hilar mass: 4.6cm left hilar mass with multiple hypodensities in
   the liver. Concern for metastatic disease (breast, thyroid) vs. new
   lung primary (NSCLC squamous, SCLC, lymphoma) given long tobacco
   history.
   - TSH appropriately suppressed, thyroglobulin pending
   - Consult Onc:  recommended MRI of the head and bone scan to be done
   today
   - s/p bronchoscopy with biopsy
   - SW consult for coping
   - Further plan pending path results
   .
   # Pneumonia: Appears post-obstructive from mass effect. Community
   dwelling patient. Meets SIRS criteria with WBC 19.6, tachycardia,
   tachypnea, fever.
   - As legionella negative, will discontinue levofloxacin and continue
   unasyn only
   - Follow cultures and adjust antibiotics as needed.
   - Chest PT, IS
   # Tachycardia:  Unclear etiology, may be component of anxiety, anemia
   and possible PE.
   - LENI
s today as history of malignancy and high risk for PE, however
   will likely be unable to anticoagulate given bleeding during
   bronchoscopy yesterday.
   - Switch prophylaxis to lovenox as better for PE in malignancy
   - Ativan for anxiety
   - Treat anemia as below
   .
   # Anemia:  [**Month (only) 11**] be secondary to blood loss from lungs, serial
   phlebotomy, dilutional effect or secondary to chronic disease.
   - iron studies, B12 and folate
   - Guaiac all stools
   - active T + S
   - Transfuse if Hct less than 21.
   .
   # COPD: Evidence emphysema on CT chest although no formal diagnosis. No
   evidence flare presently. Inhalers prn.
   - Attempt to wean O2 as tolerated
   .
   # Breast Cancer:  S/p lumpectomy, chemotherapy and radiation.   No
   active issues
   .
   # Papillary thyroid cancer:  S/p thyroidectomy and RAI ablation.
   - Continue levothyroxine, appropriately suppressed
   .
   # FEN: Regular diet, replete lytes PRN
   # Access:  PIVx2
   # PPx:  Lovenox SC QD, bowel regimen
   # Code:  Full (confirmed)
   # Dispo:  ICU for now, will likely send to the floor tomorrow
   # Comm:  [**Name (NI) **]
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 PLEURAL EFFUSION, EMPYEMA
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 HYPOTENSION (NOT SHOCK)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 TACHYCARDIA, OTHER
 ELECTROLYTE & FLUID DISORDER, OTHER
   ICU Care
   Nutrition:  regular diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2138-2-3**] 12:18 PM
   16 Gauge - [**2138-2-3**] 02:17 PM
   Prophylaxis:
   DVT:  Lovenox QD
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  full
   Disposition:  ICU for now, likely send to the floor tomorrow

2138-02-05 06:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Bone Scan completed: Focal area of increased tracer uptake in the
   skull.
   - LENI: No DVT
 ULTRASOUND - At [**2138-2-4**] 02:33 PM
   LENI's
 NUCLEAR MEDICINE - At [**2138-2-4**] 03:34 PM
   bone scan
 PAN CULTURE - At [**2138-2-4**] 05:35 PM
 MAGNETIC RESONANCE IMAGING - At [**2138-2-4**] 09:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2138-2-2**] 11:15 PM
   Metronidazole - [**2138-2-3**] 09:17 AM
   Ampicillin/Sulbactam (Unasyn) - [**2138-2-5**] 06:15 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2138-2-4**] 08:18 AM
   Lorazepam (Ativan) - [**2138-2-4**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-2-5**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.2
C (98.9
   HR: 118 (112 - 139) bpm
   BP: 94/59(67) {79/39(52) - 170/76(98)} mmHg
   RR: 32 (19 - 37) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  1,530 mL
                                                                    416 mL
   PO:
                                                                    790 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    740 mL
                                                                    216 mL
   Blood products:
   Total out:
                                                                  2,550 mL
                                                                    750 mL
   Urine:
                                                                  2,550 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,020 mL
                                                                   -334 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 91%
   ABG: ///31/
   Physical Examination
   General:  chronically ill appearing woman in NAD, on nasal cannula at 6
   L, able to speak in sentences
   HEENT:  NC, AT, EOMI, PERRLA, MM dry, no lymphadenopathy
   CVS:  RRR, no murmurs
   RESP:  diminished air movement on the left side, egophony at left base,
   no wheezes, crackles or rhonchi
   ABD:  Soft, NT, ND, +BS
   EXT:  No edema
   NEURO:  A+0x3, cn2-12 intact, sensory and motor grossly intact
   Labs / Radiology
   563 K/uL
   8.9 g/dL
   136 mg/dL
   0.4 mg/dL
   31 mEq/L
   3.2 mEq/L
   5 mg/dL
   102 mEq/L
   140 mEq/L
   25.9 %
   12.2 K/uL
        [image002.jpg]
                             [**2138-2-2**]  10:36 PM
                             [**2138-2-3**]  04:37 AM
                             [**2138-2-3**]  04:04 PM
                             [**2138-2-3**]  04:40 PM
                             [**2138-2-4**]  03:22 AM
                             [**2138-2-4**]  05:06 PM
                             [**2138-2-5**]  03:00 AM
   WBC
   16.4
   12.8
   11.2
   12.7
   12.2
   Hct
   28.1
   27.0
   25.9
   26.4
   25.9
   Plt
   [**Telephone/Fax (3) 3701**]33
   563
   Cr
   0.5
   0.4
   0.4
   0.5
   0.4
   0.4
   TCO2
   28
   Glucose
   110
   147
   100
   99
   103
   136
   Other labs: PT / PTT / INR:15.4/35.3/1.4, Differential-Neuts:82.9 %,
   Lymph:9.9 %, Mono:6.2 %, Eos:0.6 %, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL,
   PO4:3.1 mg/dL
   Assessment and Plan
   73F h/o breast cancer, aggressive papillary thyroid cancer, remote
   tobacco abuse, remote LLL lung nodule s/p VATS with pathology
   suggestive of benign fibrous tumor who presents with 1 month
   progressive shortness of breath, worse over the past 3 days, and found
   to have new left hilar mass and post-obstructive pneumonia
   # Left hilar mass: 4.6cm left hilar mass with multiple hypodensities in
   the liver. Concern for metastatic disease (breast, thyroid) vs. new
   lung primary (NSCLC squamous, SCLC, lymphoma) given long tobacco
   history.
   - TSH appropriately suppressed, thyroglobulin normal
   - f/u onc recs
   - s/p bronchoscopy with biopsy-path pending
   - SW consult for coping
   - f/u final read of MRI and bone scan
   .
   # Pneumonia: Appears post-obstructive from mass effect. Community
   dwelling patient. Meets SIRS criteria with WBC 19.6, tachycardia,
   tachypnea, fever.  Legionella negative, will discontinue levofloxacin
   - unasyn only
   - Follow cultures and adjust antibiotics as needed.
   - Chest PT, IS
   - Low grade temp this AM, will continue to monitor fever curve, if
   further [**Last Name (LF) 3708**], [**First Name3 (LF) 116**] culture
   - Productive cough overnight, will send sputum if reproducible
   # Tachycardia:  Unclear etiology, may be component of anxiety, anemia
   and possible PE, LENIs negative yesterday
   - continue prophylaxis with lovenox as better for PE in malignancy
   - Ativan for anxiety
   - Treat anemia as below
   - Aggressive K replacement  as tachycardia seems sensitive to K
   replacement for unclear reasons
   - Obtain CTA to investigate possible PE
   .
   # Anemia:  [**Month (only) 11**] be secondary to blood loss from lungs, serial
   phlebotomy, dilutional effect or secondary to chronic disease.
   - iron studies, B12 and folate demonstrate AOCD
   - Guaiac all stools
   - active T + S
   - Transfuse if Hct less than 21.
   .
   # COPD: Evidence emphysema on CT chest although no formal diagnosis. No
   evidence flare presently. Inhalers prn.
   - Attempt to wean O2 as tolerated
   .
   # Breast Cancer:  S/p lumpectomy, chemotherapy and radiation.   No
   active issues
   .
   # Papillary thyroid cancer:  S/p thyroidectomy and RAI ablation.
   - Continue levothyroxine, appropriately suppressed
   .
   # FEN: Regular diet, replete lytes PRN
   # Access:  PIVx2
   # PPx:  Lovenox SC QD, bowel regimen
   # Code:  Full (confirmed)
   # Dispo:  ICU for now, will likely send to the OMED floor
   # Comm:  [**Name (NI) **]
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 PLEURAL EFFUSION, EMPYEMA
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 HYPOTENSION (NOT SHOCK)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 TACHYCARDIA, OTHER
 ELECTROLYTE & FLUID DISORDER, OTHER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2138-2-3**] 02:17 PM
   20 Gauge - [**2138-2-4**] 05:51 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-02-06 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Rad/Onc consulted, plan for radiation therapy tomorrow
   - CTA positive for PE
   - CT also showed worsening of the opacification of the left lung, may
   require bronchoscopy tomorrow
   - Also, mentioned calcified mass in uterus and ovary, ?U/S to evalute
   further
   - Decided not to start anticoagulation as risk of bleeding, continue
   lovenox at prophylactic dose
   Poor sleep, would like coffee this morning
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2138-2-3**] 09:17 AM
   Ampicillin/Sulbactam (Unasyn) - [**2138-2-6**] 05:54 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-2-6**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.7
C (98.1
   HR: 121 (108 - 121) bpm
   BP: 113/69(79) {87/43(53) - 116/78(84)} mmHg
   RR: 24 (17 - 33) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  2,740 mL
                                                                    420 mL
   PO:
                                                                  2,120 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    620 mL
                                                                    270 mL
   Blood products:
   Total out:
                                                                  2,900 mL
                                                                    810 mL
   Urine:
                                                                  2,900 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -160 mL
                                                                   -390 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ///31/
   Physical Examination
   General:  chronically ill appearing woman in NAD, on nasal cannula at 6
   L, resting comfortably inquiring about breakfast
   HEENT:  NC, AT, EOMI, PERRLA, MM dry, no lymphadenopathy
   CVS:  RRR, no murmurs
   RESP:  diminished air movement on the left side, egophony at left base,
   no wheezes, crackles or rhonchi
   ABD:  Soft, NT, ND, +BS
   EXT:  No edema
   NEURO:  A+0x3, cn2-12 intact, sensory and motor grossly intact
   Labs / Radiology
   537 K/uL
   8.6 g/dL
   126 mg/dL
   0.4 mg/dL
   31 mEq/L
   3.4 mEq/L
   5 mg/dL
   103 mEq/L
   141 mEq/L
   25.1 %
   10.9 K/uL
        [image002.jpg]
                             [**2138-2-2**]  10:36 PM
                             [**2138-2-3**]  04:37 AM
                             [**2138-2-3**]  04:04 PM
                             [**2138-2-3**]  04:40 PM
                             [**2138-2-4**]  03:22 AM
                             [**2138-2-4**]  05:06 PM
                             [**2138-2-5**]  03:00 AM
                             [**2138-2-6**]  03:20 AM
   WBC
   16.4
   12.8
   11.2
   12.7
   12.2
   10.9
   Hct
   28.1
   27.0
   25.9
   26.4
   25.9
   25.1
   Plt
   [**Telephone/Fax (3) 3701**]33
   563
   537
   Cr
   0.5
   0.4
   0.4
   0.5
   0.4
   0.4
   0.4
   TCO2
   28
   Glucose
   110
   147
   100
   99
   103
   136
   126
   Other labs: PT / PTT / INR:15.2/32.4/1.3, Differential-Neuts:82.9 %,
   Lymph:9.9 %, Mono:6.2 %, Eos:0.6 %, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.7 mg/dL
   Imaging: Torso CT:
   1. Subsegmental right basilar pulmonary embolism new compared to three
   days
   prior.
   2. Left hilar mass. Now with complete obliteration of the left upper
   lobe
   bronchus and bronchial tree with near-complete consolidation of the
   left upper lobe and lingula, for which bronchoscopy may be considered.
   3. Slight increase in left pleural effusion, moderate, with increased
   now near-complete atelectasis of the left lower lobe with sparing of
   only the
   superior segment.
   4. Examination of the abdomen and pelvis is similar to that seen three
   days
   prior, with multiple liver lesions, some of which may be concerning for
   metastasis, large bulky uterus for which a pelvic ultrasound is
   recommended, right pelvic lesion with coarse calcifications, and
   sigmoid diverticulosis without evidence of diverticulitis.
   MRI Head:
   IMPRESSION:
   1. No acute intracranial abnormality.
   2. No pathologic focus of enhancement, bone destructive lesion or other
   evidence of intracranial metastasis.
   3. Bifrontal cortical atrophy.
   Bone Scan
   Focal area of increased tracer uptake in the skull. Further evaluation
   with head
   CT is recommended to exclude a metastatic lesion.
   Microbiology: [**2138-2-5**] 6:35 pm SPUTUM     Site: EXPECTORATED
         Source: Expectorated.
      GRAM STAIN (Final [**2138-2-5**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
   Pathology:
   POSITIVE FOR MALIGNANT CELLS
     consistent with poorly differentiated carcinoma.
   Assessment and Plan
   73F h/o breast cancer, aggressive papillary thyroid cancer, remote
   tobacco abuse, remote LLL lung nodule s/p VATS with pathology
   suggestive of benign fibrous tumor who presents with 1 month
   progressive shortness of breath, worse over the past 3 days, and found
   to have new left hilar mass and post-obstructive pneumonia.
   # Left hilar mass: 4.6 left hilar mass with hypodenisities in the
   liver. FNA consistent with poorly differentiated carcinoma.
   - Away final path, MRI & Bone scan
   - Transfer to [**Hospital Ward Name **] for Rad/Onc
   # Pneumonia: Appears post-obstructive from mass effect. Community
   dwelling patient. Meets SIRS criteria with WBC 19.6, tachycardia,
   tachypnea, fever.  Legionella negative, will discontinue levofloxacin
   - unasyn only
   - Follow cultures and adjust antibiotics as needed.
   - Chest PT, IS
   - Low grade temp this AM, will continue to monitor fever curve, if
   further [**Last Name (LF) 3708**], [**First Name3 (LF) 116**] culture
   - Productive cough overnight, will send sputum if reproducible
   # PE: Patient found to have PE on Torso CT.  No anticoagulation
   indicated at this time due to her hemoptysis.  Explains persistent
   tachycardia
   -          Continue Lovenox SQ PPX dose
   -          Discuss IVC filter with family as best option
   # Anemia:  [**Month (only) 11**] be secondary to blood loss from lungs, serial
   phlebotomy, dilutional effect or secondary to chronic disease.
   - iron studies, B12 and folate demonstrate AOCD
   - Guaiac all stools
   - active T + S
   - Transfuse if Hct less than 21.
   # COPD: Evidence emphysema on CT chest although no formal diagnosis. No
   evidence flare presently. Inhalers prn.
   - Attempt to wean O2 as tolerated
   # Breast Cancer:  S/p lumpectomy, chemotherapy and radiation.   No
   active issues
   # Papillary thyroid cancer:  S/p thyroidectomy and RAI ablation.
   - Continue levothyroxine, appropriately suppressed
   # FEN: Regular diet, replete lytes PRN
   # Access:  PIVx2
   # PPx:  Lovenox SC QD, bowel regimen
   # Code:  Full (confirmed)
   # Dispo:  ICU for now, will likely send to the OMED floor, Dr.
   [**Last Name (STitle) 3738**]
   # Comm:  [**Name (NI) **]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-2-5**] 10:30 PM
   Prophylaxis:
   DVT: LMW Heparin(Systemic anticoagulation: None)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2138-02-07 07:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Patient became hypoxic overnight and required high flow oxygen.  Now
   weaned back to NC this am.
   Denies pain or other complaints.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2138-2-6**] 05:26 PM
   Ampicillin - [**2138-2-7**] 05:26 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-2-7**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.3
   HR: 111 (110 - 133) bpm
   BP: 85/47(56) {78/41(54) - 123/81(85)} mmHg
   RR: 23 (19 - 42) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  2,090 mL
                                                                    773 mL
   PO:
                                                                    950 mL
             TF:
   IVF:
                                                                  1,140 mL
                                                                    773 mL
   Blood products:
   Total out:
                                                                  1,865 mL
                                                                    800 mL
   Urine:
                                                                  1,865 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    225 mL
                                                                    -27 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, High flow neb
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   General Appearance: Thin middle-aged female lying in bed in NAD with a
   high flow mask in place
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: OP clear
   Cardiovascular: tachycardic, but regular
   Respiratory / Chest: Patient with slightly increased RR, scattered
   crackles present.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No edema
   Skin:  Warm
   Neurologic: Alert and appropriate.
   Labs / Radiology
   581 K/uL
   8.9 g/dL
   133 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.3 mEq/L
   7 mg/dL
   104 mEq/L
   140 mEq/L
   26.0 %
   13.3 K/uL
        [image002.jpg]
                             [**2138-2-2**]  10:36 PM
                             [**2138-2-3**]  04:37 AM
                             [**2138-2-3**]  04:04 PM
                             [**2138-2-3**]  04:40 PM
                             [**2138-2-4**]  03:22 AM
                             [**2138-2-4**]  05:06 PM
                             [**2138-2-5**]  03:00 AM
                             [**2138-2-6**]  03:20 AM
                             [**2138-2-7**]  05:10 AM
   WBC
   16.4
   12.8
   11.2
   12.7
   12.2
   10.9
   13.3
   Hct
   28.1
   27.0
   25.9
   26.4
   25.9
   25.1
   26.0
   Plt
   [**Telephone/Fax (3) 3701**]33
   563
   537
   581
   Cr
   0.5
   0.4
   0.4
   0.5
   0.4
   0.4
   0.4
   0.4
   TCO2
   28
   Glucose
   110
   147
   100
   99
   103
   136
   126
   133
   Other labs: PT / PTT / INR:14.4/29.8/1.2, Differential-Neuts:82.9 %,
   Lymph:9.9 %, Mono:6.2 %, Eos:0.6 %, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.1 mg/dL
   [1][**2138-2-6**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [2][**2138-2-5**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
   INPATIENT
   [3][**2138-2-4**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [4][**2138-2-4**]
   MRSA SCREEN
   MRSA SCREEN-PENDING
   INPATIENT
   [5][**2138-2-4**]
   URINE
   URINE CULTURE-FINAL
   INPATIENT
   [6][**2138-2-4**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [7][**2138-2-2**]
   URINE
   Legionella Urinary Antigen -FINAL
   INPATIENT
   [8][**2138-2-2**]
   URINE
   URINE CULTURE-FINAL
   INPATIENT
   [9][**2138-2-2**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   EMERGENCY [**Hospital1 **]
   [10][**2138-2-2**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   EMERGENCY [**Hospital1 **]
   CTA ([**2-5**]):
   1. Subsegmental right basilar pulmonary embolism new since three days
   prior.
   2. Large left hilar mass, with new obliteration of the left upper lobe
   bronchus and bronchial tree, with near-complete consolidation of the
   left upper lobe and lingula. Given rapid progression, bronchoscopy is
   recommended.
   3. Moderate left pleural effusion slightly increased from three days
   prior. Increased left lower lobe atelectasis.
   4. Multiple liver lesions, some of which are cysts, others appearing
   more complex raising concern for metastasis.
   5. Bulky and heterogeneous uterus with low density in the endometrial
   cavity. Again a pelvic ultrasound is suggested for further evaluation.
   6. Underlying centrilobular emphysema.
   7. Right lower pole renal lesion cannot be classified as simple cyst,
   and could represent a metastatic lesion, although this is uncommon.
   Assessment and Plan
   73 yo F with h/o thyroid papillary carcinoma, h/o breast ca, now with
   LUL mass biopsy c/w poorly differentiated non-small cell lung carcinoma
   c/b post obstructive PNA, also found to have right basilar [**Hospital **]
   transferred to the [**Hospital Unit Name 10**] for XRT planning and IVC filter placement.
   # Left hilar mass: path c/w poorly differentiated NSCLC.  ? mets to
   liver.  MRI head without e/o mets at this time.  Heme-onc and rad-onc
   following.  She underwent XRT mapping this am.
   - Plan for XRT this afternoon.
   - Will f/u heme/onc recs
   # Post-obstructive pneumonia: She was initially treated with
   vanc/levo/flagyl.  Now on Unasyn with significant improvement.  WBC
   down, afebrile.  Still hypoxic, but could also be component of PE and
   mass as well.
   - con't unasyn total 14 day course (#[**6-22**])
   - sputum cultures pending
   - blood cx pending
   # Pulmonary Embolism: CTA with right basilar PE.  would benefit from
   lovenox given malignancy, but with bleeding seen on airway, would hold
   off for now.  LENI's negative for DVT.  IR consulted for IVC placement
   - Per IR can place the IVC filter on Monday.  Will plan for placement
   then.
   - Given her risk of further PE and her tenuous respiratory status and
   risk of bleeding from her lung mass after staring XRT will no
   systemically anticoagulate, will start SQH for ppx; also encourage
   ambulation.
   # Sinus tachycardia: Multiple active issues could be contributing to
   her tachycardia: infxn, PE.  could also be component of dehydration.
   Also TSH slightly low on levothyroxine, but likely necessary given h/o
   thyroid cancer.  Also anemia may be component.  Her tachycardia did not
   respond to two 500 cc NS boluses overnight, so unlikely secondary to
   volume depletion.
   - Continue to monitor on tele.  Would not treat with a nodal blocking
   [**Doctor Last Name 23**] as it is likely compensatory.
   - tx for <25
   # Anemia: MCV 84- normocytic anemia; ferritin 184; unlikely iron
   deficiency.  Most likely secondary to chronic inflammation and
   malignancy.  Other blood counts WNL so unlikely to be primary BM
   issue.  Hct stable at 26 this am.
   - Will recheck a pm Hct as SQH is being started and she was seen to
   have bleeding in her lungs during her recent bronch and is being
   started on XRT today.
   - Active type and screen, transfusion for <25
   - guaiac all stools
   # Code: Full (confirmed)
   ICU Care
   Nutrition: Regular diet, NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-2-5**] 10:30 PM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: PPI not indicated
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22,640,400,50,50,1);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_10%22,640,400,50,50,1);

2138-02-07 10:02:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Lung Cancer
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   O2 weaned to nasal cannula this morning.
   XRT Mapping this morning
   Patient subjectively described breathing quite tolerable during mapping
   procedure.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2138-2-6**] 05:26 PM
   Ampicillin - [**2138-2-7**] 05:26 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2138-2-7**] 09:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37
C (98.6
   HR: 109 (109 - 133) bpm
   BP: 110/69(80) {78/41(54) - 123/81(85)} mmHg
   RR: 26 (19 - 42) insp/min
   SpO2: 89%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  2,090 mL
                                                                    980 mL
   PO:
                                                                    950 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,140 mL
                                                                    860 mL
   Blood products:
   Total out:
                                                                  1,865 mL
                                                                  1,090 mL
   Urine:
                                                                  1,865 mL
                                                                  1,090 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    225 mL
                                                                   -110 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 89%
   ABG: ///27/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : Scattered, Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   581 K/uL
   133 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.3 mEq/L
   7 mg/dL
   104 mEq/L
   140 mEq/L
   26.0 %
   13.3 K/uL
        [image002.jpg]
                             [**2138-2-2**]  10:36 PM
                             [**2138-2-3**]  04:37 AM
                             [**2138-2-3**]  04:04 PM
                             [**2138-2-3**]  04:40 PM
                             [**2138-2-4**]  03:22 AM
                             [**2138-2-4**]  05:06 PM
                             [**2138-2-5**]  03:00 AM
                             [**2138-2-6**]  03:20 AM
                             [**2138-2-7**]  05:10 AM
   WBC
   16.4
   12.8
   11.2
   12.7
   12.2
   10.9
   13.3
   Hct
   28.1
   27.0
   25.9
   26.4
   25.9
   25.1
   26.0
   Plt
   [**Telephone/Fax (3) 3701**]33
   563
   537
   581
   Cr
   0.5
   0.4
   0.4
   0.5
   0.4
   0.4
   0.4
   0.4
   TCO2
   28
   Glucose
   110
   147
   100
   99
   103
   136
   126
   133
   Other labs: PT / PTT / INR:14.4/29.8/1.2, Differential-Neuts:82.9 %,
   Lymph:9.9 %, Mono:6.2 %, Eos:0.6 %, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.1 mg/dL
   Imaging: CTA-[**2-5**]--sub-segmental PE, Left Hilar Mass with post
   obstructive collapse and consolidation predominantly in Upper Lobe
   Microbiology: C. Diff--negative
   No positive cultures noted
   Urine Legionella--Neg
   Assessment and Plan
   73 yo female with poorly differentiated adenocarcinoma in lung with
   recent history of DVT and PE now transfer to [**Hospital Unit Name 10**] to allow mapping for
   XRT approach.  This is in the setting of Thyroid Papillary Carcinoma
   and Breast CA now with finding of adenocarcinoma on lung move to XRT
   made.
   1)Andenocarcinoma--Lung
   -XRT Mapping today
   -XRT to start at earliest time reasonable
   2)Pneumonia-Post obstructive
   -Unasyn with some significant improvement
   -Will need O2 to continue and with obstruction, PE will have continued
   high O2 requirement
   3)Pulmonary Embolus-Found in sub-segmental distribution
   -LENI has shown no DVT dependently
   -Would favor filter placement with significant risk for bleeding and
   signficant risk for pulmonary embolism.  Discussed with IR and plan for
   filter placment Monday if clinically appropriate
   -Prophylactic anticoagulation to continue
   4)Tachycardia
likely related to PE, malignancy, hypoxia, mild
   hypovolemia, anxiety and is sinus tachycardia.
   -IVF given
   -Continue telemetry
   Additional issues to be addressed as defined in the resident note of
   this day
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 PLEURAL EFFUSION, EMPYEMA
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 HYPOTENSION (NOT SHOCK)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 TACHYCARDIA, OTHER
 ELECTROLYTE & FLUID DISORDER, OTHER
   ICU Care
   Nutrition: npo for this morning but will return to po intake with
   procdure timing known
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-2-5**] 10:30 PM
   Prophylaxis:
   DVT:  Boots and Hep sq prophylaxis for now, D/C foley and OOB and
   ambulation
   Stress ulcer: PPI to continue with concern for bleeding
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2138-02-08 06:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 RADIATION THERAPY - At [**2138-2-7**] 02:00 PM
   - decided on no heparin give risk of bleeding after XRT
   - heme/onc recs:  PET scan for staging
   - thoracics c/s for ? pneumonectomy:
   - pm hct 30
   - IR talked to patient about IVC filter - patient wants more time to
   think about it and talk about it with family, will revisit and possibly
   do on Monday
   - micro: C. diff neg, sputum neg
   - spoke with Dr. [**Last Name (STitle) 3781**] regarding possible palliative stenting of L
   bronchus and this is not possible as it is too distal, but could
   possible to local treatment to be revisted after XRT done
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2138-2-7**] 05:01 PM
   Ampicillin/Sulbactam (Unasyn) - [**2138-2-8**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2138-2-7**] 11:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-2-8**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.4
   HR: 116 (99 - 117) bpm
   BP: 124/75(84) {85/47(56) - 125/77(88)} mmHg
   RR: 20 (19 - 30) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  1,698 mL
                                                                    168 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                  1,218 mL
                                                                    168 mL
   Blood products:
   Total out:
                                                                  2,340 mL
                                                                    400 mL
   Urine:
                                                                  2,340 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -642 mL
                                                                   -233 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General Appearance: Thin middle-aged female lying in bed in NAD with a
   high flow mask in place
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: OP clear
   Cardiovascular: tachycardic, but regular
   Respiratory / Chest: Patient with slightly increased RR, scattered
   crackles present.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No edema
   Skin:  Warm
   Neurologic: Alert and appropriate.
   Labs / Radiology
   684 K/uL
   9.3 g/dL
   127 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.8 mEq/L
   7 mg/dL
   103 mEq/L
   139 mEq/L
   28.2 %
   13.8 K/uL
        [image002.jpg]
                             [**2138-2-3**]  04:37 AM
                             [**2138-2-3**]  04:04 PM
                             [**2138-2-3**]  04:40 PM
                             [**2138-2-4**]  03:22 AM
                             [**2138-2-4**]  05:06 PM
                             [**2138-2-5**]  03:00 AM
                             [**2138-2-6**]  03:20 AM
                             [**2138-2-7**]  05:10 AM
                             [**2138-2-7**]  04:46 PM
                             [**2138-2-8**]  04:31 AM
   WBC
   12.8
   11.2
   12.7
   12.2
   10.9
   13.3
   14.4
   13.8
   Hct
   27.0
   25.9
   26.4
   25.9
   25.1
   26.0
   30.0
   28.2
   Plt
   [**Telephone/Fax (2) 3782**]
   692
   684
   Cr
   0.4
   0.4
   0.5
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   TCO2
   28
   Glucose
   147
   100
   99
   103
   136
   126
   133
   128
   127
   Other labs: PT / PTT / INR:15.0/28.6/1.3, Differential-Neuts:82.9 %,
   Lymph:9.9 %, Mono:6.2 %, Eos:0.6 %, Ca++:8.4 mg/dL, Mg++:2.5 mg/dL,
   PO4:2.8 mg/dL
   Assessment and Plan
 .H/O PULMONARY EMBOLISM (PE), ACUTE
 .H/O CANCER (MALIGNANT NEOPLASM), LUNG
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 PLEURAL EFFUSION, EMPYEMA
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 HYPOTENSION (NOT SHOCK)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 TACHYCARDIA, OTHER
 ELECTROLYTE & FLUID DISORDER, OTHER
   73 yo F with h/o thyroid papillary carcinoma, h/o breast ca, now with
   LUL mass biopsy c/w poorly differentiated non-small cell lung carcinoma
   c/b post obstructive PNA, also found to have right basilar [**Hospital **]
   transferred to the [**Hospital Unit Name 10**] for XRT planning and IVC filter placement.
   # Left hilar mass: path c/w poorly differentiated NSCLC.  ? mets to
   liver.  MRI head without e/o mets at this time.  Heme-onc and rad-onc
   following.  She underwent XRT yesterday and tolerated it well. Today
   she has only had two small clots coughed up.
   - Next XRT session is [**2138-2-10**]
   - Will f/u heme/onc recs
   - Will d/w Heme/Onc how long pt would be required to stay in the ICU
   # Post-obstructive pneumonia: She was initially treated with
   vanc/levo/flagyl.  Now on Unasyn with significant improvement.  WBC
   down, afebrile.  Still hypoxic, but could also be component of PE and
   mass as well.
   - con't unasyn total 14 day course (#[**6-22**])
   - sputum cultures pending
   - blood cx pending
   # Pulmonary Embolism: CTA with right basilar PE.  would benefit from
   lovenox given malignancy, but with bleeding seen on airway, would hold
   off for now.  LENI's negative for DVT.  IR consulted for IVC placement/
   Pt states she would like to talk to her family this weekend before
   deciding on the filter, she will be ready with her decision on
   [**2138-2-10**].
   - Per IR can place the IVC filter on Monday.  Will plan for placement
   then.
   - Given her risk of further PE and her tenuous respiratory status and
   risk of bleeding from her lung mass after staring XRT will no
   systemically anticoagulate, will start SQH for ppx; also encourage
   ambulation.
    # Sinus tachycardia: Multiple active issues could be contributing to
   her tachycardia: infxn, PE.  could also be component of dehydration.
   Also TSH slightly low on levothyroxine, but likely necessary given h/o
   thyroid cancer.  Also anemia may be component.  Her tachycardia did not
   respond to two 500 cc NS boluses overnight, so unlikely secondary to
   volume depletion.
   - Continue to monitor on tele.  Would not treat with a nodal blocking
   [**Doctor Last Name 23**] as it is likely compensatory.
   - tx for <25
   # Anemia: MCV 84- normocytic anemia; ferritin 184; unlikely iron
   deficiency.  Most likely secondary to chronic inflammation and
   malignancy.  Other blood counts WNL so unlikely to be primary BM
   issue.  Hct stable at 26 this am.
   - Will recheck a pm Hct as SQH is being started and she was seen to
   have bleeding in her lungs during her recent bronch and is being
   started on XRT today.
   - Active type and screen, transfusion for <25
   - guaiac all stools
   # Code: Full (confirmed)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-2-5**] 10:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-02-08 10:44:00 Physician Attending Progress Note
Chief Complaint: hemoptysis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   73 yo female with breast and thyroid cancer, PE's admitted with
   hemoptyis and NSCLCa. Originally on [**Location (un) **] [**Hospital 3786**] transferred to [**Hospital Ward Name **] to begin XRT.
   24 Hour Events:
 RADIATION THERAPY - At [**2138-2-7**] 02:00 PM
   *Pt still considering IVC filter
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2138-2-7**] 05:01 PM
   Ampicillin/Sulbactam (Unasyn) - [**2138-2-8**] 06:17 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2138-2-7**] 11:56 AM
   Other medications:
   albuterol, tylenol prn, [**Last Name (un) 3483**], bisacodyl, atrovent, synthroid, senna
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-2-8**] 10:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.4
   HR: 109 (102 - 130) bpm
   BP: 104/66(76) {93/53(64) - 125/77(88)} mmHg
   RR: 24 (19 - 30) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  1,698 mL
                                                                    725 mL
   PO:
                                                                    480 mL
                                                                    420 mL
   TF:
   IVF:
                                                                  1,218 mL
                                                                    305 mL
   Blood products:
   Total out:
                                                                  2,340 mL
                                                                  1,000 mL
   Urine:
                                                                  2,340 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -642 mL
                                                                   -275 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: left side)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: ecchymoses
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, Tone: Normal
   Labs / Radiology
   9.3 g/dL
   684 K/uL
   127 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.8 mEq/L
   7 mg/dL
   103 mEq/L
   139 mEq/L
   28.2 %
   13.8 K/uL
        [image002.jpg]
                             [**2138-2-3**]  04:37 AM
                             [**2138-2-3**]  04:04 PM
                             [**2138-2-3**]  04:40 PM
                             [**2138-2-4**]  03:22 AM
                             [**2138-2-4**]  05:06 PM
                             [**2138-2-5**]  03:00 AM
                             [**2138-2-6**]  03:20 AM
                             [**2138-2-7**]  05:10 AM
                             [**2138-2-7**]  04:46 PM
                             [**2138-2-8**]  04:31 AM
   WBC
   12.8
   11.2
   12.7
   12.2
   10.9
   13.3
   14.4
   13.8
   Hct
   27.0
   25.9
   26.4
   25.9
   25.1
   26.0
   30.0
   28.2
   Plt
   [**Telephone/Fax (3) 3782**]
   692
   684
   Cr
   0.4
   0.4
   0.5
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   TCO2
   28
   Glucose
   147
   100
   99
   103
   136
   126
   133
   128
   127
   Other labs: PT / PTT / INR:15.0/28.6/1.3, Differential-Neuts:82.9 %,
   Lymph:9.9 %, Mono:6.2 %, Eos:0.6 %, Ca++:8.4 mg/dL, Mg++:2.5 mg/dL,
   PO4:2.8 mg/dL
   Imaging: CXR: most of left hemithorax opacified
   Assessment and Plan
 .H/O PULMONARY EMBOLISM (PE), ACUTE
 . CANCER (MALIGNANT NEOPLASM), LUNG
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 PLEURAL EFFUSION, EMPYEMA
 PNEUMONIA, Post obstructive
   Pt with NSCLCa with post-obstructive PNA, DVT/PE not on anticoagulation
   *NSCLCa: appears to have tolerated XRT without problems. To resume
   treatments Monday. Hemoptysis unchanged
   *DVT/PE- off anticoagulation due to recent hemoptysis. PT still
   considering IVC filter
   *Stachy: pt without symptoms of CP, DOE. Continue to monitor
   *Diarrhea: check CDiff
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-2-5**] 10:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2138-02-09 04:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - discussed with Heme/Onc regarding need for ICU care, attending
   agreed. OMED concerned regarding pt's heart rate of 130s, did not
   transfer to OMED team
   This am the patient denies pain or other complaints.  She continues to
   cough up a small amount of dark, bloody sputum.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2138-2-7**] 05:01 PM
   Ampicillin/Sulbactam (Unasyn) - [**2138-2-9**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2138-2-8**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-2-9**] 04:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.7
   HR: 116 (103 - 130) bpm
   BP: 93/46(59) {76/27(48) - 131/75(88)} mmHg
   RR: 20 (18 - 36) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  2,030 mL
                                                                    100 mL
   PO:
                                                                  1,440 mL
             TF:
   IVF:
                                                                    590 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  2,100 mL
                                                                      0 mL
   Urine:
                                                                  2,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -70 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: Face tent 40%
 4 L NC
   SpO2: 94%
   ABG: ////
   Physical Examination
   General Appearance: Thin middle-aged female lying in bed in NAD.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: OP clear
   Cardiovascular: tachycardic, but regular
   Respiratory / Chest: Patient breathing comfortably, rhonchi present
   throughout.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No edema
   Skin:  Warm
   Neurologic: Alert and appropriate.
   Labs / Radiology
   698 K/uL
   9.1 g/dL
   127 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.8 mEq/L
   7 mg/dL
   103 mEq/L
   139 mEq/L
   27.7 %
   12.1 K/uL
        [image002.jpg]
                             [**2138-2-3**]  04:04 PM
                             [**2138-2-3**]  04:40 PM
                             [**2138-2-4**]  03:22 AM
                             [**2138-2-4**]  05:06 PM
                             [**2138-2-5**]  03:00 AM
                             [**2138-2-6**]  03:20 AM
                             [**2138-2-7**]  05:10 AM
                             [**2138-2-7**]  04:46 PM
                             [**2138-2-8**]  04:31 AM
                             [**2138-2-9**]  04:16 AM
   WBC
   11.2
   12.7
   12.2
   10.9
   13.3
   14.4
   13.8
   12.1
   Hct
   25.9
   26.4
   25.9
   25.1
   26.0
   30.0
   28.2
   27.7
   Plt
   459
   533
   563
   537
   581
   692
   684
   698
   Cr
   0.4
   0.5
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   TCO2
   28
   Glucose
   100
   99
   103
   136
   126
   133
   128
   127
   Other labs: PT / PTT / INR:15.0/28.6/1.3, Differential-Neuts:82.9 %,
   Lymph:9.9 %, Mono:6.2 %, Eos:0.6 %, Ca++:8.4 mg/dL, Mg++:2.5 mg/dL,
   PO4:2.8 mg/dL
   [1][**2138-2-8**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [2][**2138-2-6**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [3][**2138-2-5**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   INPATIENT
   [4][**2138-2-4**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [5][**2138-2-4**]
   MRSA SCREEN
   MRSA SCREEN-FINAL
   INPATIENT
   [6][**2138-2-4**]
   URINE
   URINE CULTURE-FINAL
   INPATIENT
   [7][**2138-2-4**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   Assessment and Plan
   73 yo F with h/o thyroid papillary carcinoma, h/o breast ca, now with
   LUL mass biopsy c/w poorly differentiated non-small cell lung carcinoma
   c/b post obstructive PNA, also found to have right basilar [**Hospital **]
   transferred to the [**Hospital Unit Name 10**] for XRT planning and IVC filter placement.
   # Left hilar mass: path c/w poorly differentiated NSCLC.  ? mets to
   liver.  MRI head without e/o mets at this time.  Heme-onc and rad-onc
   following.  She underwent XRT [**2-7**] and tolerated it well.  Will
   continue to monitor for bleeding.
   - Next XRT session is [**2138-2-10**]
   - Will f/u heme/onc recs
   - Will DC ASA given bleeding risk and recent bloody sputum.
   # Post-obstructive pneumonia: She was initially treated with
   vanc/levo/flagyl.  Now on Unasyn with significant improvement.  WBC
   down, afebrile.  Still hypoxic, but could also be component of PE and
   mass as well.  Sputum cx with only OP growth.
   - con't unasyn total 14 day course (#[**7-22**])
   - F/u BCx
   # Pulmonary Embolism: CTA with right basilar PE.  would benefit from
   lovenox given malignancy, but with bleeding seen on airway, would hold
   off for now.  LENI's negative for DVT.  IR consulted for IVC placement/
   Pt states she would like to talk to her family this weekend before
   deciding on the filter, she will be ready with her decision on
   [**2138-2-10**].
   - Per IR can place the IVC filter on Monday, however the patient is
   unsure if she wants this.  Will discuss with her family today and
   tentatively plan for placement on Monday.
   - Given her risk of further PE and her tenuous respiratory status and
   risk of bleeding from her lung mass after staring XRT will not
   systemically anticoagulate, will continue SQH for ppx; also encourage
   ambulation.
    # Sinus tachycardia: The patient continues to have HRs in the 110
s to
   120
s.  Multiple active issues could be contributing to her
   tachycardia: infxn, PE.  Also TSH slightly low on levothyroxine, but
   likely necessary given h/o thyroid cancer.  Also anemia may be
   component.  Her tachycardia did not respond to two 500 cc NS boluses a
   few days ago, so unlikely secondary to volume depletion.
   - Continue to monitor on tele.  Would not treat with a nodal blocking
   [**Doctor Last Name 23**] as it is likely compensatory.
   - transfusion for <25
   # Anemia: MCV 84- normocytic anemia; ferritin 184; unlikely iron
   deficiency.  Most likely secondary to chronic inflammation and
   malignancy.  Other blood counts WNL so unlikely to be primary BM
   issue.  Hct stable at 27.7 this am.
   - Active type and screen, transfusion for <25
   - guaiac all stools
   - Monitor for pulmonary bleeding.
   # Code: Full (confirmed)
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-2-5**] 10:30 PM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: Not indicated
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out to the floor.
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);

2138-02-09 12:02:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   73 yo female with thyroid and breast CA admitted with
   NSCLCa/hemotypsis, post-obstructive PNA, PE not on anticoagulation
   24 Hour Events:
 CALLED OUT
   No new events
   Oxygen weaned down.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2138-2-7**] 05:01 PM
   Ampicillin/Sulbactam (Unasyn) - [**2138-2-9**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2138-2-9**] 09:00 AM
   Other medications:
   MVI, aspirin, synthroid
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-2-9**] 11:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.4
C (97.6
   HR: 119 (107 - 125) bpm
   BP: 91/56(64) {76/27(48) - 131/70(79)} mmHg
   RR: 22 (18 - 36) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  2,030 mL
                                                                    680 mL
   PO:
                                                                  1,440 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    590 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  2,100 mL
                                                                  1,250 mL
   Urine:
                                                                  2,100 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -70 mL
                                                                   -570 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), tachycardic,
   hyperdynamic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: decreased with scattered rhonchi on left side
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: No(t) Cyanosis
   Musculoskeletal: No(t) Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, No(t) Sedated, No(t) Paralyzed, Tone:
   Normal
   Labs / Radiology
   9.1 g/dL
   698 K/uL
   130 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.8 mEq/L
   8 mg/dL
   103 mEq/L
   140 mEq/L
   27.7 %
   12.1 K/uL
        [image002.jpg]
                             [**2138-2-3**]  04:04 PM
                             [**2138-2-3**]  04:40 PM
                             [**2138-2-4**]  03:22 AM
                             [**2138-2-4**]  05:06 PM
                             [**2138-2-5**]  03:00 AM
                             [**2138-2-6**]  03:20 AM
                             [**2138-2-7**]  05:10 AM
                             [**2138-2-7**]  04:46 PM
                             [**2138-2-8**]  04:31 AM
                             [**2138-2-9**]  04:16 AM
   WBC
   11.2
   12.7
   12.2
   10.9
   13.3
   14.4
   13.8
   12.1
   Hct
   25.9
   26.4
   25.9
   25.1
   26.0
   30.0
   28.2
   27.7
   Plt
   459
   533
   563
   537
   581
   692
   684
   698
   Cr
   0.4
   0.5
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   TCO2
   28
   Glucose
   100
   99
   103
   136
   126
   133
   128
   127
   130
   Other labs: PT / PTT / INR:14.4/28.9/1.2, Differential-Neuts:82.9 %,
   Lymph:9.9 %, Mono:6.2 %, Eos:0.6 %, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.6 mg/dL
   Microbiology: CDiff negative x 2
   [**Last Name (un) **] and sputum cultures NGTD
   Assessment and Plan
 .H/O PULMONARY EMBOLISM (PE), ACUTE
 .H/O CANCER (MALIGNANT NEOPLASM), LUNG
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 PLEURAL EFFUSION, EMPYEMA
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 HYPOTENSION (NOT SHOCK)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 TACHYCARDIA, OTHER
 ELECTROLYTE & FLUID DISORDER, OTHER
   73 yo female with NSCLCa with post-obstructive PNA, PE
   1. NSCLCa: underwent XRT Friday without incident
   2. Post obstructive PNA: afebrile with unchanged WBC. On unasyn day 7,
   to complete 14 day course
   3. PE: not on anticoagulation due to hemoptysis. Pt still undecided
   about IVC filter, but has not discussed with family in detail
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-2-5**] 10:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: